US09101133B2
2-[5-(2,6-diethyl-4-methylphenyl)-4,6-dioxohexahydropentalen-2-ylidene]-malononitrile
0.500 g (1.70 mmol) of 2-(2,6-diethyl-4-methylphenyl)tetrahydropentalene-1,3,5-trione (example I-a-4 from WO 2010/040460), 250 mg of malononitrile, 150 mg of ammonium acetate and 0.3 ml of glacial acetic acid in 30 ml of toluene are heated at reflux for 2 h. After cooling, the solvent is distilled off and the mixture is taken up in ethyl acetate, washed twice with water, then dried (magnesium sulphate) and concentrated on a rotary evaporator. What remains is a yellow oil which is chromatographed on silica gel using ethyl acetate/hexane 1:6. This gives 0.32 g (56%) of a colourless oil.

reactant | 2-(2,6-diethyl-4-methylphenyl)tetrahydropentalene-1,3,5-trione | 1.70 mmol, 0.500 g | C(C)C1=C(C(=CC(=C1)C)CC)C1C(C2CC(CC2C1=O)=O)=O | C19H22O3
reactant | malononitrile | 250 mg | C(CC#N)#N | C3H2N2
reactant | ammonium acetate | 150 mg | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[5-(2,6-diethyl-4-methylphenyl)-4,6-dioxohexahydropentalen-2-ylidene]-malononitrile | C(C)C1=C(C(=CC(=C1)C)CC)C1C(C2CC(CC2C1=O)=C(C#N)C#N)=O | C22H22N2O2
